US07446121B2
To a solution of 1-(4-fluoro-phenyl)-5-formyl-4-isopropyl-1H-pyrazole-3-carboxylic acid methyl ester (11.34 g, 39.1 mmol) in MeOH (150 mL) was added NaOH (156 mL of 1 N solution, 156 mmol). The reaction was heated to 60° C. for 4 hr. The solvent was then removed under reduced pressure and water (150 mL) and Et2O (100 mL) were added. The organic layer was discarded and the aqueous layer was acidified with 10% HCl to pH 1 and then extracted with EtOAc (200 mL×2). The combined organic extracts were dried over Na2SO4 and concentrated to give 1-(4-fluoro-phenyl)-5-formyl-4-isopropyl-1H-pyrazole-3-carboxylic acid (8.55 g, 79%) as a white solid that required no purification: MS(APCI+): m/z 277.0 (M+H).

reactant | 1-(4-fluoro-phenyl)-5-formyl-4-isopropyl-1H-pyrazole-3-carboxylic acid methyl ester | 39.1 mmol, 11.34 g | COC(=O)C1=NN(C(=C1C(C)C)C=O)C1=CC=C(C=C1)F | C15H15FN2O3
reactant | NaOH | 156 mmol, 1 N, 156 mL | [OH-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 1-(4-fluoro-phenyl)-5-formyl-4-isopropyl-1H-pyrazole-3-carboxylic acid | 8.55 g, 79% | FC1=CC=C(C=C1)N1N=C(C(=C1C=O)C(C)C)C(=O)O | C14H13FN2O3
